US04440929
1,4-Dichloroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
To a suspension of 4-chloroimidazo[1,5-a]quinoxaline 3-carboxylic acid (2.7 g) in carbon tetrachloride (50 ml) was added N-chlorosuccinimide (3 g) and trace of benzoyl peroxide. The mixture was stirred and refluxed for 48 hours, then evaporated under vacuum to dryness. The residue was taken up in chloroform, washed with water, dried, concentrated to a small volume, then put through a silica gel dry column (chloroform as eluant). From column, the product was obtained as an off-white solid (1.6 g, 50% yield), m.p. 132°-135° C.

reactant | 4-chloroimidazo[1,5-a]quinoxaline 3-carboxylic acid | 2.7 g | ClC=1C=2N(C3=CC=CC=C3N1)C=NC2C(=O)O | C11H6ClN3O2
reactant | N-chlorosuccinimide | 3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,4-Dichloroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 1.6 g, 50% yield | C(C)OC(=O)C=1N=C(N2C1C(=NC1=CC=CC=C21)Cl)Cl | C13H9Cl2N3O2
